US09034866B2
Synthesis of ethyl 4-fluoro-9-iodo-4-methyl-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate
To a solution of ethyl 4-hydroxy-9-iodo-4-methyl-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate (350 mg, 0.85 mmol, 1.00 equiv) in dichloromethane (5 mL) was added diethylaminosulfur trifluoride (271 mg, 1.68 mmol, 2.00 equiv) at 0° C. After being stirred overnight at room temperature the resulting mixture was washed with water, extracted with dichloromethane, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was purified by a silica gel column with ethyl acetate/petroleum ether (1:20) to give 200 mg (57%) of the titled compound as a white solid; LC-MS (ES, m/z) 417 [M+H]+.

reactant | ethyl 4-hydroxy-9-iodo-4-methyl-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate | 0.85 mmol, 350 mg, 1.00 equiv | OC1(C=2N(C3=C(OC1)C=CC(=C3)I)N=C(C2)C(=O)OCC)C | C15H15IN2O4
reactant | diethylaminosulfur trifluoride | 1.68 mmol, 271 mg, 2.00 equiv | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | ethyl 4-fluoro-9-iodo-4-methyl-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate | 200 mg, 57% | FC1(C=2N(C3=C(OC1)C=CC(=C3)I)N=C(C2)C(=O)OCC)C | C15H14FIN2O3
